US06071917
1-[[3-[(2-Methylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[[1-[4-(aminoiminomethyl)benzoyl]piperidin-4-yl]methyl]-2(S)-pyrrolidinecarboxamide dihydrochloride
By following a procedure analogous to Example 23, starting from 4-(aminoiminomethyl)benzoic acid hydrochloride and 1-[[3-[(2-methylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[(piperidin-4-yl)methyl]-2(S)-pyrrolidinecarboxamide dihydrochloride, the expected product is obtained in the form of a powdery white solid (yield=39%) after purification by means of reversed phase chromatography on RP18-grafted silica gel using a water/acetonitrile/hydrochloric acid mixture (63/32/1; v/v/v) as the eluent.

reactant | 4-(aminoiminomethyl)benzoic acid hydrochloride | Cl.NN=CC1=CC=C(C(=O)O)C=C1
reactant | 1-[[3-[(2-methylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[(piperidin-4-yl)methyl]-2(S)-pyrrolidinecarboxamide dihydrochloride | Cl.Cl.CC1=NC2=C(C=CC=C2C=C1)OCC=1C(=C(C=CC1Cl)S(=O)(=O)N1[C@@H](CCC1)C(=O)NCC1CCNCC1)Cl
product | 1-[[3-[(2-Methylquinolin-8-yl)oxymethyl]-2,4-dichlorophenyl]sulfonyl]-N-[[1-[4-(aminoiminomethyl)benzoyl]piperidin-4-yl]methyl]-2(S)-pyrrolidinecarboxamide dihydrochloride | Cl.Cl.CC1=NC2=C(C=CC=C2C=C1)OCC=1C(=C(C=CC1Cl)S(=O)(=O)N1[C@@H](CCC1)C(=O)NCC1CCN(CC1)C(C1=CC=C(C=C1)C=NN)=O)Cl | InChI=1S/C36H38Cl2N6O5S.2ClH/c1-23-7-10-26-4-2-6-31(34(26)42-23)49-22-28-29(37)13-14-32(33(28)38)50(47,48)44-17-3-5-30(44)35(45)40-20-25-15-18-43(19-16-25)36(46)27-11-8-24(9-12-27)21-41-39;;/h2,4,6-14,21,25,30H,3,5,15-20,22,39H2,1H3,(H,40,45);2*1H/t30-;;/m0../s1
